US06001981
3,4-Di-O-i-propyl-6-deoxy-L-glucal
i-Propyl iodide (40 mL, 0.40 mol), 3,4-di-O-acetyl-6-deoxy-L-glucal (4.28 g, 0.20 mol), 50% aqueous NaOH (43 mL, 0.81 mol) and DMSO (11.4 mL, 0.16 mol) were added sequentially to a 300 mL round-bottom, three-neck flask equipped with an overhead stirrer. Stirring was begun and tetrabutylammonium hydrogen sulfate (2.04 g, 0.006 mol) added in a single portion. The mixture was stirred for 67 h. at room temperature and for 24 h at reflux temperature. The mixture was cooled to room temperature and partitioned between water and pentane. The aqueous layer was extracted with additional pentane. The combined organic layers were successively washed with water (four times), dilute aqueous sodium thiosulfate, water, and saturated sodium bicarbonate. The solvent was removed under reduced pressure (20 Torr followed by 0.1 Torr) to yield a light yellow oil (1.2 g, 28%) that could be used without further purification. 1H NMR d 6.29 (dd, J=6.1, 1.4, 1 H), 4.70 (dd, J=6.1, 2.4, 1 H), 1.35 (d, J=6.4, 3 H), 1.21 (d, J=6.4, 3 H), 1.18 (d, J=6.4, 6 H), 1.17 (d, J=6.4, 3 H).

reactant | i-Propyl iodide | 0.40 mol, 40 mL | C(C)(C)I | C3H7I
reactant | 3,4-di-O-acetyl-6-deoxy-L-glucal | 0.20 mol, 4.28 g | C(C)(=O)O[C@H]1C=CO[C@H]([C@@H]1OC(C)=O)C | C10H14O5
reactant | NaOH | 0.81 mol, 43 mL | [OH-].[Na+]
reactant | DMSO | 0.16 mol, 11.4 mL | CS(=O)C | C2H6OS
catalyst | tetrabutylammonium hydrogen sulfate | 0.006 mol, 2.04 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3,4-Di-O-i-propyl-6-deoxy-L-glucal | 1.2 g, 28% | C(C)(C)O[C@H]1C=CO[C@H]([C@@H]1OC(C)C)C | C12H22O3
